US07579470B2
2-Cyclopropyl-3-phenyl-2,4,5,6,7,8-hexahydro-1,2,6-triaza-azulene
N′-cyclopropyl-hydrazinecarboxylic acid tert-butyl ester. To a solution of 1.37 g of 3-(4-cyano-phenyl)-oxaziridine-2-carboxylic acid tert-butyl ester in Et2O (8 mL) was added 1.2 mL of cyclopropylamine. The mixture was aged for 2 h and then concentrated in vacuo. Chromatography on SiO2 (0 to 25% EtOAc/hexanes) provided an impure pale yellow solid that was sublimed under high vacuum in a 50° C. oil bath to afford 641 mg of the desired compound. 1H NMR (500 MHz, CDCl3): 6.31 (br s, 1H), 3.49 (br s, 1H), 2.74 (br s, 1H), 1.48 (s, 9H), 0.52-0.48 (m, 4H).

reactant | N′-cyclopropyl-hydrazinecarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)NNC1CC1 | C8H16N2O2
reactant | 3-(4-cyano-phenyl)-oxaziridine-2-carboxylic acid tert-butyl ester | 1.37 g | C(C)(C)(C)OC(=O)N1OC1C1=CC=C(C=C1)C#N | C13H14N2O3
reactant | cyclopropylamine | 1.2 mL | C1(CC1)N | C3H7N
reactant | Et2O | 8 mL | CCOCC | C4H10O
product | 2-Cyclopropyl-3-phenyl-2,4,5,6,7,8-hexahydro-1,2,6-triaza-azulene | 641 mg | C1(CC1)N1N=C2CCNCCC2=C1C1=CC=CC=C1 | C16H19N3
